US03989749
To a solution of ethyl 7-[N-(4-acetoxynonyl)cyanamido] -2-methylheptanoate (7.6 g., 0.02 mole) in ethanol (50 ml.) is added a solution of sodium hydroxide (1.6 g., 0.04 mole) in water (15 ml.) and the reaction is stirred at ambient temperature for 20 hours. Then most of the ethanol is removed in vacuo and the residue taken up in water (150 ml.). The solution is extracted once with ether then acidified with hydrochloric acid (dil.). The oil that separates is extracted into ether, the ether is washed with brine, dried over sodium sulfate, then removed under vacuum to give 7-[N-(4-hydroxynonyl)cyanamido]-2-methylheptanoic acid as a yellow oil.

reactant | ethyl 7-[N-(4-acetoxynonyl)cyanamido] -2-methylheptanoate | 0.02 mole, 7.6 g | C(C)(=O)OC(CCCN(C#N)CCCCCC(C(=O)OCC)C)CCCCC | C22H40N2O4
reactant | sodium hydroxide | 0.04 mole, 1.6 g | [OH-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | 15 ml | O | H2O
product | 7-[N-(4-hydroxynonyl)cyanamido]-2-methylheptanoic acid | OC(CCCN(C#N)CCCCCC(C(=O)O)C)CCCCC | C18H34N2O3
